### PR TITLE
[Merged by Bors] - feat(NumberTheory/NumberField/FinitePlaces): the `v`-adic absolute value induces an ultrametric distance

### PR DESCRIPTION
**Pull request by fbarroero**
We prove that the `v`adic absolute value satisfies the ultrametric inequality and that the `v`adic absolute value of an integer is at most 1.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 1]
```diff
@@ -100,6 +101,15 @@ noncomputable instance instRankOneValuedAdicCompletion :
 noncomputable instance instNormedFieldValuedAdicCompletion : NormedField (adicCompletion K v) :=
   Valued.toNormedField (adicCompletion K v) (WithZero (Multiplicative ℤ))
 
+/-- The `v`-adic norm on the `v`-adic completion of `K` satisfies the ultrametric inequality. -/
+theorem vadic_norm_add_le_sup (x y : adicCompletion K v) : ‖x + y‖ ≤ ‖x‖ ⊔ ‖y‖ := by
```
Comment (mariainesdff) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:105]:
```suggestion
theorem norm_add_le_max (x y : adicCompletion K v) : ‖x + y‖ ≤ ‖x‖ ⊔ ‖y‖ := by
```

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 2]
```diff
@@ -100,6 +101,15 @@ noncomputable instance instRankOneValuedAdicCompletion :
...
+  rw [le_sup_iff, Valued.toNormedField.norm_le_iff, Valued.toNormedField.norm_le_iff, ← le_sup_iff]
+  exact Valuation.map_add Valued.v x y
+
+/-- The `v`-adic norm of a natural number is `≤ 1`. -/
+theorem forall_vadic_norm_natCast_le_one (n : ℕ) : ‖(n : adicCompletion K v)‖ ≤ 1 :=
```
Comment (mariainesdff) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:110]:
```suggestion
theorem norm_natCast_le_one (n : ℕ) : ‖(n : adicCompletion K v)‖ ≤ 1 :=
```

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 3]
```diff
@@ -133,6 +143,20 @@ theorem FinitePlace.norm_def_int (x : 𝓞 K) : ‖embedding v x‖ = toNNReal (
     (v.intValuationDef x) := by
   rw [norm_def, vadicAbv_def, valuation_eq_intValuationDef]
 
+/-- The `v`-adic absolute value satisfies the ultrametric inequality. -/
+theorem vadicAbv_add_le_sup (x y : K) : vadicAbv v (x + y) ≤ (vadicAbv v x) ⊔ (vadicAbv v y) :=
+  by simp [← FinitePlace.norm_def]
```
Comment (mariainesdff) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:148]:
```suggestion
theorem vadicAbv_add_le_max (x y : K) : vadicAbv v (x + y) ≤ (vadicAbv v x) ⊔ (vadicAbv v y) := by
  simp [← FinitePlace.norm_def]
```

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 4]
```diff
@@ -133,6 +143,20 @@ theorem FinitePlace.norm_def_int (x : 𝓞 K) : ‖embedding v x‖ = toNNReal (
...
+
+/-- The `v`-adic absolute value of a natural number is `≤ 1`. -/
+theorem forall_vadicAbv_natCast_le_one (n : ℕ) : vadicAbv v n ≤ 1 := by
+  rw [← FinitePlace.norm_def, map_natCast]
+  exact forall_vadic_norm_natCast_le_one v n
```
Comment (mariainesdff) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:153]:
```suggestion
theorem vadicAbv_natCast_le_one (n : ℕ) : vadicAbv v n ≤ 1 := by
  simp only [← FinitePlace.norm_def, map_natCast, forall_vadic_norm_natCast_le_one]
```

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 5]
```diff
@@ -133,6 +143,20 @@ theorem FinitePlace.norm_def_int (x : 𝓞 K) : ‖embedding v x‖ = toNNReal (
...
+
+/-- The `v`-adic absolute value of an integer is `≤ 1`. -/
+theorem forall_vadicAbv_intCast_le_one (n : ℤ) : vadicAbv v n ≤ 1 := by
+  rw [← AbsoluteValue.apply_natAbs_eq]
+  exact forall_vadicAbv_natCast_le_one v n.natAbs
```
Comment (mariainesdff) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:158]:
```suggestion
theorem vadicAbv_intCast_le_one (n : ℤ) : vadicAbv v n ≤ 1 := by
  simp only [← AbsoluteValue.apply_natAbs_eq, forall_vadicAbv_natCast_le_one]
```

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean (hunk 1 above)
Comment (mariainesdff) [reply Mathlib/NumberTheory/NumberField/FinitePlaces.lean:105]: You could just apply `IsUltrametricDist.norm_add_le_max _ _`. I am not sure that it is necessary to add this lemma and the next one.

Comment (fbarroero) [reply Mathlib/NumberTheory/NumberField/FinitePlaces.lean]: Thanks, you are right.
I erased the two lemmas.

**Comment by mariainesdff** [comment]
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
